US04906621
A mixture of 1.19 g of 4-(diethylphosphonomethyl)-2-pyridinecarboxamide and 0.75 g of platinum oxide in 30 ml of acetic acid is hydrogenated at 3 atmospheric pressure for 6 hours at room temperature. The reaction mixture is filtered and the solvent is removed in vacuo. The residue is dissolved in methylene chloride and washed with a small volume of saturated sodium bicarbonate solution. After drying over magnesium sulfate, a methylene chloride solution of a 2:1 mixture of cis and trans 4-(diethylphosphonomethyl)-2-piperidinecarboxamide is obtained. After 3 days at room temperature this mixture isomerizes to the more stable cis isomer. Removal of the solvent in vacuo affords cis-4-(diethylphosphonomethyl)-2-piperidinecarboxamide as an oil, which is converted to the hydrochloride salt, melting at 155°-158°.

reactant | 4-(diethylphosphonomethyl)-2-pyridinecarboxamide | 1.19 g | C(C)OP(=O)(OCC)CC1=CC(=NC=C1)C(=O)N | C11H17N2O4P
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
catalyst | platinum oxide | 0.75 g | [Pt]=O
product | trans 4-(diethylphosphonomethyl)-2-piperidinecarboxamide | C(C)OP(=O)(OCC)C[C@H]1C[C@@H](NCC1)C(=O)N | C11H23N2O4P
